US07576108B2
Add a suspension of oxone®(4.97 g, 8.1 mmol) in 10 mL water to a solution of 5-bromo-2-methylsulfanyl-pyridine (1.1 g, 5.4 mmol) in 10 mL methanol, stir at r.t. for 1 h and remove methanol under vacuum. Extract the aqueous residue with dichloromethane, dry the organic extracts over sodium sulfate, filtrate and concentrate under reduced pressure to obtain 1.24 g of 5-bromo-2-methanesulfonyl-pyridine. MS (m/e): 237 (M+H).

reactant | oxone | OOS(=O)[O-].[K+]
reactant | 5-bromo-2-methylsulfanyl-pyridine | 5.4 mmol, 1.1 g | BrC=1C=CC(=NC1)SC | C6H6BrNS
reactant | water | 10 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 5-bromo-2-methanesulfonyl-pyridine | 1.24 g | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
